US04367238
2-[2-Methoxy-3-(2-methoxyphenoxy)phenyl]acetic acid (10.50 g) was dissolved in a mixture of 48% hydriodic acid (61.5 ml) and acetic anhydride (31.5 ml) and then refluxed under heating for 40 minutes. After cooling, the reaction mixture was evaporated, and the residue was extracted with diethyl ether. The extract was washed with an aqueous sodium hydrogen sulfite and subsequently with saline, dried over magnesium sulfate and then evaporated. The oily residue (11.50 g) was allowed to stand, and the precipitating crystals (11.50 g) were recrystallized from benzene to give colorless crystals of 2-[2-hydroxy-3-(2-hydroxyphenoxy)phenyl]acetic acid (9.4 g). mp 91°-93° C.

reactant | 2-[2-Methoxy-3-(2-methoxyphenoxy)phenyl]acetic acid | 10.50 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)OC)CC(=O)O | C16H16O5
solvent | hydriodic acid | 61.5 ml | I | HI
solvent | acetic anhydride | 31.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-[2-hydroxy-3-(2-hydroxyphenoxy)phenyl]acetic acid | 9.4 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)O)CC(=O)O | C14H12O5
